US08304419B2
Step A: 3-bromo-1H-indole-2-carboxylic acid
Ethyl 3-bromo-1H-indole-2-carboxylate (0.070 g, 0.30 mmol) and powdered lithium hydroxide (0.073 g, 3.0 mmol) were dissolved in 1:1:1 mixture of THF/MeOH/water (3.0 mL) and the solution was stirred at RT for 4.5 h. The solvent was evaporated. Purification was accomplished by Reverse-Phase HPLC (water/acetonitrile with 0.1% TFA) to afford (0.042 g, 67%) of the title compound as a white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 12.09 (br. s., 1H), 7.50 (d, 1H), 7.43 (d, 1H), 7.30 (t, 1H), 7.15 (t, 1H). MS: m/z 240.1 (M+1).

reactant | Ethyl 3-bromo-1H-indole-2-carboxylate | 0.30 mmol, 0.070 g | BrC1=C(NC2=CC=CC=C12)C(=O)OCC | C11H10BrNO2
reactant | lithium hydroxide | 3.0 mmol, 0.073 g | [OH-].[Li+]
solvent | THF MeOH water | 3.0 mL | C1CCOC1.CO.O
product | 3-bromo-1H-indole-2-carboxylic acid | 0.042 g, 67% | BrC1=C(NC2=CC=CC=C12)C(=O)O | C9H6BrNO2
